US04705864
A solution of 0.02 mol 4-aminoacetophenone in 40 mL THF is added dropwise to a solution of 0.02 mol of leucine methyl ester isocyanate and 5 mL pyridine in 40 mL THF, and the reaction mixture is stirred for 3 hours. The solvent is then removed by rotary evaporator. The residue is dispersed in 50 mL CH3OH, and 0.022 mol hydroxylamine hydrochloride and 0.06 mol trimethyl orthoformate are added. The reaction mixture is heated to reflux for 1 hour. The solvent is removed by rotary evaporator. Addition of water to the residue results in precipitation of N-[4-(1-hydroxyiminoethyl)phenyl]-N'-(1-methoxycarbonyl-3-methylbutyl)urea, which is then treated with NaOCH3 to adjust the pH to 10. The solution is heated to reflux for 2.5 hours, and the solvent is removed under vacuum. The residue is washed with cold water to yield the crude 3-[4-(1-hydroxyiminoethyl)phenyl]-5-isobutylhydantoin. The hydantoin is purified by recrystallization from CH3OH:H2O.

reactant | 4-aminoacetophenone | 0.02 mol | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | leucine methyl ester isocyanate | 0.02 mol | [N-]=C=O.COC([C@@H](N)CC(C)C)=O
reactant | hydroxylamine hydrochloride | 0.022 mol | Cl.NO
reactant | trimethyl orthoformate | 0.06 mol | C(OC)(OC)OC | C4H10O3
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(1-hydroxyiminoethyl)phenyl]-N'-(1-methoxycarbonyl-3-methylbutyl)urea | ON=C(C)C1=CC=C(C=C1)NC(=O)NC(CC(C)C)C(=O)OC | C16H23N3O4
